US09126937B2
N-cyclohexyl-N-(6-oxohexyl)benzamide:
N-cyclohexyl-N-(6-hydroxyhexyl)benzamide (136 mg, 0.45 mmol) was dissolved in methylene chloride (6 mL) and treated with Dess-Martin reagent (247.0 mg, 0.58 mmol). The oxidation was finished in 4 hours. The mixture was diluted with methylene chloride and washed with saturated bicarbonate and sodium thiosulfate (5%). The organic phase was concentrated and purified on silica gel with ethyl acetate: hexanes from 0:1 to 2:8 gave the desired product as a clear oil (108.2 mg, 80%). 1H NMR (300 MHz, CDCl3): δ 9.80 (s, 1H), 7.46-7.28 (m, 5H), 3.60-2.98 (m, 3H), 2.60-2.15 (m, 2H), 1.95-0.80 (m, 16H).

reactant | N-cyclohexyl-N-(6-hydroxyhexyl)benzamide | 0.45 mmol, 136 mg | C1(CCCCC1)N(C(C1=CC=CC=C1)=O)CCCCCCO | C19H29NO2
reactant | Dess-Martin reagent | 0.58 mmol, 247.0 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | N-cyclohexyl-N-(6-oxohexyl)benzamide | 108.2 mg, 80% | C1(CCCCC1)N(C(C1=CC=CC=C1)=O)CCCCCC=O | C19H27NO2
